US05633248
(4-Chlorophenyl)phenylacetonitrile
To a mixture of mandelonitrile (5 g) and chlorobenzene (15.7 g) was added sulfuric acid (9.8 ml) dropwise while the temperature of the mixture was maintained at 5°-10° C. After completion of dropwise addition, the mixture was stirred for another 1.5 hours. This reaction mixture was poured in ice-water and the syrup that had separated out was extracted into ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, and concentrated to dryness. The group was purified by silica gel column chromatography to provide the title compound (3.6 g) as pale yellow syrup.

reactant | mandelonitrile | 5 g | C(C(O)C1=CC=CC=C1)#N | C8H7NO
reactant | sulfuric acid | 9.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | chlorobenzene | 15.7 g | ClC1=CC=CC=C1 | C6H5Cl
product | (4-Chlorophenyl)phenylacetonitrile | 3.6 g | ClC1=CC=C(C=C1)C(C#N)C1=CC=CC=C1 | C14H10ClN
